US04689070
A suspension of 10 g of 2-cyanoamino-4,6-dimethylpyrimidine in 50 ml of pyridine was saturated with hydrogen sulfide and stored for 1 hour at 25°. The H2S treatment was repeated twice more, and the mixture was allowed to stir at 25° for 16 hours. Methylene chloride was added, and the product was filtered and washed with methylene chloride to afford 8 g of 4,6-dimethylpyrimidin-2-yl thiourea, m.p. >260°. IR (Nujol) 3280, 3180, 3120, 1610 cm-1.

reactant | 2-cyanoamino-4,6-dimethylpyrimidine | 10 g | C(#N)NC1=NC(=CC(=N1)C)C | C7H8N4
reactant | hydrogen sulfide | S | H2S
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4,6-dimethylpyrimidin-2-yl thiourea | 8 g | CC1=NC(=NC(=C1)C)NC(=S)N | C7H10N4S
